US07973051B2
i) Trimethyl-(2-methyl-1-methylene-propoxy)-silane
To freshly prepared LDA-solution in THF/hexane (1.05 eq.) was added slowly at −78° C. chloro-trimethyl-silane 7.59 mL, 60 mmol, 1.2 eq.), followed by 3-methyl-butan-2-one 5.32 mL, 50 mmol). The reaction vessel was kept for 30 Min. at −78° C. and then allowed to reach RT. The reaction mixture was diluted with 200 mL of pentane and filtered. All volatile solvents were then evaporated from the filtrate and the residue distilled in vacuo (50 mbar, bp. 40-45° C.) to give 4.38 g of regioisomerically pure title compound as colorless liquid.

reactant | LDA | [Li+].CC(C)[N-]C(C)C
reactant | THF hexane | 1.05 eq. | C1CCOC1.CCCCCC
reactant | chloro-trimethyl-silane | 60 mmol, 7.59 mL, 1.2 eq. | Cl[Si](C)(C)C | C3H9ClSi
reactant | 3-methyl-butan-2-one | 50 mmol, 5.32 mL | CC(C(C)=O)C | C5H10O
solvent | pentane | 200 mL | CCCCC | C5H12
product | Trimethyl-(2-methyl-1-methylene-propoxy)-silane | C[Si](OC(C(C)C)=C)(C)C | C8H18OSi
